US08912329B2
To a 2 M lithium diisopropylamine solution in THF of −78° C. is added 5-(pyridin-2-yl-methyl)dihydrofuran-2(3H)-one and the mixture is stirred for 1.5 hours at −78° C. Then 1-propyl bromide is added and the reaction is stirred for another 1.5 hours at −78° C. The reaction mixture is allowed to warm up to 0° C. before ice-cold water with acetic acid is added and subsequently extracted with 3 times dichloromethane. The dichloromethane is concentrated in vacuo and the residue is dissolved in dichloromethane, washed with saturated NaHCO3 and brine. Crude 3-propyl-5-(pyridin-2-ylmethyl)dihydrofuran-2(3H)-one is obtained after removal of the solvents in vacuo. The product is purified by column chromatography.

reactant | lithium diisopropylamine | 2 M | C(C)(C)NC(C)C.[Li]
reactant | 5-(pyridin-2-yl-methyl)dihydrofuran-2(3H)-one | N1=C(C=CC=C1)CC1CCC(O1)=O | C10H11NO2
reactant | 1-propyl bromide | C(CC)Br | C3H7Br
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | THF | C1CCOC1 | C4H8O
product | 3-propyl-5-(pyridin-2-ylmethyl)dihydrofuran-2(3H)-one | C(CC)C1C(OC(C1)CC1=NC=CC=C1)=O | C13H17NO2
